US08022223B2
Step B: Preparation of methyl 5-bromo-2-methoxy-2-methyl-4-oxopentanoate.
To a 125 mL round-bottom flask, methyl 4-bromo-2-methoxy-2-methylpent-4-enoate (0.525 g, 2.21 mmol) was added acetonitrile (8 mL), water (2 mL) and N-bromosuccinimide (0.493 g, 2.77 mmol). A catalytic amount of 1M HBr was added (0.066 mL, 0.066 mmol). The resulting solution was agitated overnight, diluted with 50 mL of dichloromethane and washed twice with saturated sodium bicarbonate, dried and evaporated. The residue was purified by chromatography on silica gel, eluting with 10% ethyl acetate/hexane to provide the title compound (0.52 g, 92.8% yield) as clear oil.

reactant | methyl 4-bromo-2-methoxy-2-methylpent-4-enoate | 2.21 mmol, 0.525 g | BrC(CC(C(=O)OC)(C)OC)=C | C8H13BrO3
reactant | acetonitrile | 8 mL | C(C)#N | C2H3N
reactant | N-bromosuccinimide | 2.77 mmol, 0.493 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HBr | 1M | Br | BrH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
product | methyl 5-bromo-2-methoxy-2-methyl-4-oxopentanoate | 0.52 g, 92.8% yield | BrCC(CC(C(=O)OC)(C)OC)=O | C8H13BrO4
